US07569578B2
7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-5-carbaldehyde
To a solution of 7-methyl-1H-indazole-5-carbaldehyde (5.0 g, 31.25 mmol) and N-methyl-dicyclohexylamine (13.5 mL, 62.35 mmol) in dry tetrahydrofuran (120 mL) at 0° C., was added 2-(trimethylsilyl)ethoxymethyl chloride (6.65 mL, 39.5 mmol). The ice-bath was removed and stirring continued for 5 h. The reaction mixture was diluted with ethyl acetate, washed with water (2×), brine (2×), dried over sodium sulfate, and concentrated in vacuo. Column chromatography afforded 8.5 g (93%). 1H-NMR (400 MHz, CDCl3) δ 12.3 (br., 1H), 8.13 (s, 1H), 7.88 (s, 1H), 7.42 (s, 1H), 6.12 (d, J=7.0 Hz, 1H), 5.31 (d, J=7.0 Hz, 1H), 3.80 (s, 3H), 2.60 (s, 3H).

reactant | 7-methyl-1H-indazole-5-carbaldehyde | 31.25 mmol, 5.0 g | CC=1C=C(C=C2C=NNC12)C=O | C9H8N2O
reactant | N-methyl-dicyclohexylamine | 62.35 mmol, 13.5 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 39.5 mmol, 6.65 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-5-carbaldehyde | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C=O | C15H22N2O2Si
